US08309580B2
(4) methyl 4-methyl-1-[3-(trifluoromethyl)phenyl]-1H-pyrrole-3-carboxylate
To a solution of methyl 4-methyl-1H-pyrrole-3-carboxylate (3.4 g) synthesized above in N-methyl-2-pyrrolidone (30 mL) were added 3-trifluoromethyliodobenzene (6.7 g), cuprous bromide (0.53 g) and potassium carbonate (4.4 g) at room temperature, and stirred for 1 hr with heating to 170° C. After cooling to room temperature, the reaction mixture was filtered through celite. Water was added to the filtrate and the mixture was extracted with diethyl ether. The extract was washed with brine, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel chromatography (ethyl acetate:hexane=1:4, volume ratio) to give the title compound (3.0 g, 42%) as a slightly yellow solid.

reactant | methyl 4-methyl-1H-pyrrole-3-carboxylate | 3.4 g | CC=1C(=CNC1)C(=O)OC | C7H9NO2
reactant | 3-trifluoromethyliodobenzene | 6.7 g | FC(C=1C=C(C=CC1)I)(F)F | C7H4F3I
reactant | potassium carbonate | 4.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | N-methyl-2-pyrrolidone | 30 mL | CN1C(CCC1)=O | C5H9NO
product | methyl 4-methyl-1-[3-(trifluoromethyl)phenyl]-1H-pyrrole-3-carboxylate | 3.0 g, 42% | CC=1C(=CN(C1)C1=CC(=CC=C1)C(F)(F)F)C(=O)OC | C14H12F3NO2
